US07026324B2
[(2,2-Dimethoxy-ethylaminooxalyl)-amino]-acetic acid ethyl ester (17-8)
To a solution of N-ethoxycarbonylmethyl-oxalamic acid ethyl ester (84.0 g, 414 mmol) 2–1 in 2-propanol (500 mL) was added aminoacetaldehyde dimethyl acetal (45.7 g, 435 mmol) in one portion. After stirring overnight at room temperature, the reaction mixture was concentrated to a thick orange oil. This thick slurry was diluted with 2-propanol (300 mL) and the solid was broken up with a spatula. Filtration afforded a solid which was further rinsed with an additional portion of 2-propanol. Removal of residual 2-propanol was accomplished via high vacuum to afford a light orange solid: 1H NMR (CDCl3) δ 7.82 (br s, 1H), 7.50 (br s, 1H), 4.41 (t, 1H, 5.3 Hz), 4.24 (q, 2H, 7.1 Hz), 4.09 (d, 2H, 5.9 Hz), 3.47 (dd, 2H, 5.3, 6.2 Hz), 3.40 (s, 6H), 1.30 (t, 3H, 7.1 Hz).

reactant | N-ethoxycarbonylmethyl-oxalamic acid ethyl ester | 414 mmol, 84.0 g | C(C)OC(C(=O)NCC(=O)OCC)=O | C8H13NO5
reactant | aminoacetaldehyde dimethyl acetal | 435 mmol, 45.7 g | COC(CN)OC | C4H11NO2
solvent | 2-propanol | 500 mL | CC(C)O | C3H8O
product | [(2,2-Dimethoxy-ethylaminooxalyl)-amino]-acetic acid ethyl ester | CCOC(=O)CNC(=O)C(=O)NCC(OC)OC | C10H18N2O6
